US03963728
2.1 g. of benzylamine, 7.4 g. of methyl acetate and 1.5 g. of the sodium salt of 4,6-dimethyl-2-hydroxypyridine are dissolved in 30 ml. of dimethyl acetamide and heated at about 78°C. for 4.5 hours. As determined by thin layer chromatography, all but a trace of the benzylamine is consumed. 200 ml. of water and 0.9 ml. of concentrated hydrochloric acid are added to the reaction solution, and the solution is extracted three times with 100 ml. of ethyl acetate. The organic layer is washed with 100 ml. of water, and, after drying with sodium sulfate, concentrated and crystallized. After recrystallization from 300 ml. of ether-petroleum benzin (1:1), 2.5 g. of needle-like crystals of N-benzyl acetamide are obtained (yield: 84%). m.p. 60.5° - 62°C.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl acetate | C(C)(=O)OC | C3H6O2
reactant | sodium | [Na] | Na
reactant | 4,6-dimethyl-2-hydroxypyridine | CC1=CC(=NC(=C1)C)O | C7H9NO
solvent | dimethyl acetamide | CC(=O)N(C)C | C4H9NO
product | N-benzyl acetamide | yield: 84% | C(C1=CC=CC=C1)NC(C)=O | C9H11NO
